data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1ccc(C(F)(F)F)cc1_2-F_3-c1ccc(OC)cc1_4-C(F)(F)F","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1ccc(C(F)(F)F)cc1NC(=O)C(F)(c1ccc(OC)cc1)Oc1ccc(C(F)(F)F)cc1","CC[O-]"],"products_smiles": ["c1ccc(C(F)(F)F)cc1N(c1ccc(C(F)(F)F)cc1)C(=O)C(F)(c1ccc(OC)cc1)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1[N-]C(=O)C(F)(c1ccc(OC)cc1)Oc1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(C(F)(F)F)=C1)OC(F)(c1ccc(OC)cc1)C(N2c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(C(F)(F)F)cc1)C(=O)C(F)(c1ccc(OC)cc1)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(C(F)(F)F)cc1)C(=O)C(F)(c1ccc(OC)cc1)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-240_1-c1occc1_2-C(=O)OC_3-c1ccc(F)cc1_4-c1ccccc1_5-C(c1ccccc1)c2ccccc2","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1occc1C(=O)C(C(=O)OC)[N+](c1ccc(F)cc1)(c1ccccc1)C(c1ccccc1)c2ccccc2","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1occc1C(=O)C(C(=O)OC)(C(c1ccccc1)c2ccccc2)N(c1ccc(F)cc1)(c1ccccc1)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1occc1C([O-])=C(C(=O)OC)[N+](c1ccc(F)cc1)(c1ccccc1)C(c1ccccc1)c2ccccc2","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1occc1C(=O)C(C(=O)OC)(C(c1ccccc1)c2ccccc2)N(c1ccc(F)cc1)(c1ccccc1)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
